US04491547
To a stirred and ice cooled solution of 2-ethoxyethanol (1.2 equivalents) and pyridine (1.3 equivalents) in dichloromethane (5 parts by weight) is dropwise added difluoromethylthioacetyl chloride. After stirring for 4 hours, the mixture is washed with saline, dried and concentrated. The residual liquid is distilled to give oily 2-ethoxyethyl difluoromethylthioacetate. Yield: 60%.

reactant | 2-ethoxyethanol | 1.2 equivalents | C(C)OCCO | C4H10O2
reactant | pyridine | 1.3 equivalents | N1=CC=CC=C1 | C5H5N
reactant | difluoromethylthioacetyl chloride | FC(F)CC(=S)Cl | C3H3ClF2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-ethoxyethyl difluoromethylthioacetate | Yield: 60% | FC(F)CC(=S)OCCOCC | C7H12F2O2S
